US03975384
2-Formyl-piperazino-4-thiomorpholino-6-chloro-pyrimidine
125.1 gm of 4thiomorpholino-2,6-dichloro-pyrimidine (m.p. 118.5°-121.5°C) were dissolved in 1.2 liters of dioxane, a solution of 125.6 gm of N-formyl-piperazine in 0.1 liter of dioxane was added, and the mixture was refluxed for 2.5 hours. The precipitated N-formyl-piperazine hydrochloride was suction-filtered off, and the filtrate was diluted with 2 liters of water and cooled in the ice bath. The precipitated white crystals were washed with a small quantity of 50% dioxane and dried at 100°C. Yield: 146 gm (90% of theory); m.p. 195°-198°C (decomp.).

reactant | 4thiomorpholino-2,6-dichloro-pyrimidine | 125.1 gm | S1CCN(CC1)C1=NC(=NC(=C1)Cl)Cl | C8H9Cl2N3S
reactant | N-formyl-piperazine | 125.6 gm | C(=O)N1CCNCC1 | C5H10N2O
reactant | dioxane | 1.2 liters | O1CCOCC1 | C4H8O2
reactant | dioxane | 0.1 liter | O1CCOCC1 | C4H8O2
product | 2-Formyl-piperazino-4-thiomorpholino-6-chloro-pyrimidine | C(=O)C1N(CCNC1)C1=NC(=CC(=N1)N1CCSCC1)Cl | C13H18ClN5OS
